US05578620
5-{4-[2-(3-Phenyl-2-hydroxypropylamino)propoxy]benzyl}thiazolidine-2,4-dione (Compound No. 1-2)
550 mg of 3-phenyl-2-hydroxypropylamine (prepared as described in Preparation 17) and 1.0 g of 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione were suspended in 30 ml of anhydrous benzene, and the resulting suspension was heated under reflux for 30 minutes while removing water. Subsequently, the solvent was removed by evaporation under reduced pressure. The resulting oily product was dissolved in 20 ml of anhydrous methanol, 670 mg of sodium cyanoborohydride was added to the solution, whilst ice-cooling, and the mixture was stirred for 2 hours in a stream of nitrogen gas. After this, the reaction mixture was left to stand overnight, and then the solvent was removed by evaporation under reduced pressure. Water was added to the resulting residue, which was then extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous sodium sulfate. The solvent was removed from the extract by evaporation under reduced pressure, and the resulting residue was applied to a silica gel chromatography column, which was eluted with a 5:1 by volume mixture of ethyl acetate and ethanol, and crystallized from ethyl acetate, to give 590 mg of the title compound, melting at 145° C. to 152° C.

reactant | 3-phenyl-2-hydroxypropylamine | 550 mg | C1(=CC=CC=C1)CC(CN)O | C9H13NO
reactant | 5-[4-(2-oxopropoxy)benzyl]thiazolidine-2,4-dione | 1.0 g | O=C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C | C13H13NO4S
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 5-{4-[2-(3-Phenyl-2-hydroxypropylamino)propoxy]benzyl}thiazolidine-2,4-dione | 590 mg | C1(=CC=CC=C1)CC(CNC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C)O | C22H26N2O4S
